US04888439
N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)diethylamine
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid and diethylamine.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | diethylamine | C(C)NCC | C4H11N
product | N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)diethylamine | CC(C(=O)N(CC)CC)=CCCC(=CCCC(=CCCC(C)=O)C)C | C22H37NO2
